US06638929B2
7-Methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile
To a solution of 4.75 mL (11.88 mmol) of n-butyllithium (2.5M in hexane) in 4.0 mL of tetrahydrofuran at −78° C. is added dropwise a solution of 0.68 mL (13.1 mmol) of acetonitrile in 6.8 mL of tetrahydrofuran. After completion of addition, the suspension is stirred for 10 minutes. To this is added 1.36 g (4.75 mmol) of methyl 3-{[(E)-(dimethylamino)methylidene]amino}-7-methoxy-2-naphthoate in 32 mL of tetrahydrofuran dropwise. The resulting reaction mixture is stirred at −78° C. for 1 hour, at −5° C. for 1 hour and at room temperature for 15 minutes. The reaction mixture is again cooled to −78° C. and 1.72 g (28.6 mmol) of acetic acid is added dropwise. After addition of the acetic acid, the reaction mixture is allowed to warm to room temperature. The precipitate is collected by filtration and washed sequentially with water, acetonitrile and methanol. After drying in vacuo, this yields 796.9 mg (67%) of 7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile as a deep yellow solid, mp>260° C.

reactant | n-butyllithium | 11.88 mmol, 2.5M, 4.75 mL | C(CCC)[Li]
reactant | acetonitrile | 13.1 mmol, 0.68 mL | C(C)#N | C2H3N
reactant | methyl 3-{[(E)-(dimethylamino)methylidene]amino}-7-methoxy-2-naphthoate | 4.75 mmol, 1.36 g | CN(C)\C=N\C=1C(=CC2=CC(=CC=C2C1)OC)C(=O)OC | C16H18N2O3
reactant | acetic acid | 28.6 mmol, 1.72 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | 7-Methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | COC=1C=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C1 | C15H10N2O2
